US07973051B2
ii) Acetic acid 2-(1-methyl-1H-indol-7-yloxy)-ethyl ester
A solution of 2-(1-methyl-1H-indol-7-yloxy)-ethanol (0.78 g, 4 mmol) in pyridine (10 mL) was treated with acetic anhydride (5 mL). The reaction mixture was stirred at rt for 4 h and concentrated. The residue was quenched with ice/water and extracted with ethyl acetate. The organics were washed with 2N sulfuric acid, sat. sodium bicarbonate and brine, dried and concentrated. The residue was chromatographed on silica gel using heptanelethyl acetate as eluent to produce the desired compound (0.90 g) as an off-white solid. MS (ISP): m/e 234.1 (M+H)+

reactant | 2-(1-methyl-1H-indol-7-yloxy)-ethanol | 4 mmol, 0.78 g | CN1C=CC2=CC=CC(=C12)OCCO | C11H13NO2
reactant | acetic anhydride | 5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | Acetic acid 2-(1-methyl-1H-indol-7-yloxy)-ethyl ester | 0.90 g | CN1C=CC2=CC=CC(=C12)OCCOC(C)=O | C13H15NO3
